US07915250B2
To a suspension of sodium hydride (72 mg, 1.75 mmol, 60% wt) in tetrahydrofuran (1 mL) cooled to 0° C. was added nitroethane (125 μL, 1.75 mmol). The suspension was allowed to warm to room temperature and was stirred for 15 minutes, then cooled back to 0° C. To the suspension was added dropwise a solution of 1,1-dimethylethyl 3-oxoazetidine-1-carboxylate (300 mg, 1.75 mmol, in 2 mL of tetrahydrofuran), prepared using procedures similar to those described in Reference 3. The suspension was stirred at room temperature for 1 hour. The reaction mixture was quenched by adding 20% aqueous citric acid, and then was partitioned with ethyl acetate. The aqueous portion was extracted twice using ethyl acetate and the combined organic portion was washed with saturated sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a colorless oil that was purified by column chromatography. Eluting with 30% ethyl acetate in hexanes, the isolated product was concentrated in vacuo to afford 250 mg, 1.02 mmol (58%) of 1,1-dimethylethyl 3-hydroxy-3-(1-nitroethyl)azetidine-1-carboxylate as a colorless oil. 1H NMR (400 MHz, DMSO): 6.46 (s, 1H), 5.01 (q, 1H), 4.24-3.97 (m, 2H), 3.77-3.60 (m, 2H), 1.41 (d, 3H), 1.39 (s, 9H).

reactant | sodium hydride | 1.75 mmol, 72 mg | [H-].[Na+]
reactant | nitroethane | 1.75 mmol, 125 μL | [N+](=O)([O-])CC | C2H5NO2
reactant | 1,1-dimethylethyl 3-oxoazetidine-1-carboxylate | 1.75 mmol, 2 mL, 300 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl 3-hydroxy-3-(1-nitroethyl)azetidine-1-carboxylate | 1.02 mmol, 250 mg, 58% | OC1(CN(C1)C(=O)OC(C)(C)C)C(C)[N+](=O)[O-] | C10H18N2O5
